US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(2-benzyloxyphenyl)-3-phenylprop-2-en-1-one and diethyl malonate, diethyl 2-[3-(2-benzyloxyphenyl)-3-oxo-1-phenylpropyl]malonate was obtained as colourless solid.

reactant | 1-(2-benzyloxyphenyl)-3-phenylprop-2-en-1-one | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C=CC1=CC=CC=C1)=O | C22H18O2
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-[3-(2-benzyloxyphenyl)-3-oxo-1-phenylpropyl]malonate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(CC(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)=O | C29H30O6
